US07115635B2
Synthesis of [4-(4-chloro-3-nitropheny)thiazol-2-ylthio]-N-[1-(3,4-dichlorobenzyl)piperidin-4-yl]acetamide
4-(4-Chloro-3-nitrophenyl)-2-mercaptothiazole (0.5 g) was dissolved in dimethylformamide (20 mL), and potassium carbonate (0.7 g) was added to the solution. Then, N-[1-(3,4-dichlorobenzyl)piperidin-4-yl]chloroacetamide (0.6 g) was added, and the mixture was stirred at room temperature for 3 hrs. Ethyl acetate was added to the reaction mixture, washed with water and saturated brine, and dried. The solvent was evaporated under reduced pressure, and the obtained residue was purified by silica gel column chromatography (chloroform:methanol=100:1) to give the title compound (0.7 g) as a yellow solid.

reactant | 4-(4-Chloro-3-nitrophenyl)-2-mercaptothiazole | 0.5 g | ClC1=C(C=C(C=C1)C=1N=C(SC1)S)[N+](=O)[O-] | C9H5ClN2O2S2
reactant | potassium carbonate | 0.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | N-[1-(3,4-dichlorobenzyl)piperidin-4-yl]chloroacetamide | 0.6 g | ClC=1C=C(CN2CCC(CC2)NC(CCl)=O)C=CC1Cl | C14H17Cl3N2O
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | [4-(4-chloro-3-nitropheny)thiazol-2-ylthio]-N-[1-(3,4-dichlorobenzyl)piperidin-4-yl]acetamide | 0.7 g | ClC1=C(C=C(C=C1)C=1N=C(SC1)SCC(=O)NC1CCN(CC1)CC1=CC(=C(C=C1)Cl)Cl)[N+](=O)[O-] | C23H21Cl3N4O3S2
